US04003908
7-[3-(Dimethylamino)propoxy]-3,5-dimethyl-3H-imidazo[4,5-b]-pyridine-6-carboxylic acid, ethyl ester
To a solution of 1.1 g. of 3-dimethylaminopropan-1-ol in 100 ml. of dry benzene are added 4 ml. of a 20% solution of butyl lithium in hexane. The mixture is stirred at room temperature for 15 minutes. After this time, 2.5 g. of 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester are added and the solution is heated at reflux temperature with stirring for 12 hours. After cooling, the solution is shaken with 50 ml. of a saturated aqueous sodium carbonate solution. The benzene layer is separated, dried with calcium chloride and evaporated to dryness. The remaining oily residue, 7-[3-(dimethylamino)propoxy]-3,5 -dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, is purified by distillation, yield 2.2 g. (85%); b.p. 175°-180° /0.01 mm.

reactant | 3-dimethylaminopropan-1-ol | CN(CCCO)C | C5H13NO
reactant | butyl lithium | C(CCC)[Li]
reactant | 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | ClC1=C2C(=NC(=C1C(=O)OCC)C)N(C=N2)C | C11H12ClN3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 7-[3-(Dimethylamino)propoxy]-3,5-dimethyl-3H-imidazo[4,5-b]-pyridine-6-carboxylic acid, ethyl ester | CN(CCCOC1=C2C(=NC(=C1C(=O)OCC)C)N(C=N2)C)C | C16H24N4O3
